US06900243B2
a) [3-(5-Chloro-2-cyanophenoxy)pentyl]methylcarbamic Acid, 1,1-dimethylethyl ester
The title compound was prepared according to the method of Example 3 step (b) but using (3-hydroxypentyl)methylcarbamic acid, 1,1-dimethylethyl ester and 4-chloro-2-fluorobenzonitrile.

reactant | (3-hydroxypentyl)methylcarbamic acid, 1,1-dimethylethyl ester | OC(CCN(C(OC(C)(C)C)=O)C)CC | C11H23NO3
reactant | 4-chloro-2-fluorobenzonitrile | ClC1=CC(=C(C#N)C=C1)F | C7H3ClFN
product | [3-(5-Chloro-2-cyanophenoxy)pentyl]methylcarbamic Acid, 1,1-dimethylethyl ester | ClC=1C=CC(=C(OC(CCN(C(OC(C)(C)C)=O)C)CC)C1)C#N | C18H25ClN2O3
